US04207234
1-(α-Methoxycarbonylbenzyl)-4-methylthio-3-(2-phenylacetamido)-2-azetidinone (mixture of two trans isomers at the third and fourth positions of the azetidine ring) (0.50 g) was dissolved in dried dioxane (10 ml), and to the solution, there was added an dioxane solution (10 ml) containing Raney nickel (5 ml). The mixture was stirred at 60° C. for 2 hours. Raney nickel was removed by filtration to give a filtrate, which was evaporated to dryness under reduced pressure. The residue obtained was subjected to column chromatography on silica gel (10 g) and elution was carried out with chloroform. The fractions containing a desired compound were collected and the solvent was distilled off from the solution under reduced pressure to give 1-(α-methoxycarbonylbenzyl)-3-(2-phenylacetamido)-2-azetidinone (mixture of two isomers at the third position of the azetidine ring, 320 mg). Additionally this mixture was subjected to column chromatography on silica gel and elution was carried out with chloroform. The eluate was treated in a conventional manner to give each isomer a: 180 mg and b: 140 mg of the above compound.

reactant | 1-(α-Methoxycarbonylbenzyl)-4-methylthio-3-(2-phenylacetamido)-2-azetidinone | COC(=O)C(C1=CC=CC=C1)N1C(C(C1SC)NC(CC1=CC=CC=C1)=O)=O | C21H22N2O4S
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Raney nickel | 5 ml | [Ni] | Ni
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 1-(α-methoxycarbonylbenzyl)-3-(2-phenylacetamido)-2-azetidinone | COC(=O)C(C1=CC=CC=C1)N1C(C(C1)NC(CC1=CC=CC=C1)=O)=O | C20H20N2O4
